US06420365B1
A solution of 416 mg (1.0 mmol) of ({3-[(5-bromo-2-methoxyphenyl)methyl](imidazolo[1,2-a]pyridin-2-yl)}methyl) (3-methylbutyl)amine in 20 mL dichloromethane at −78° C. is treated with boron tribromide 0.4 mL (4.0 mmol). The resulting solution is allowed to return to room temperature over 1 hr, quenched by addition of 10 mL sat. NaHCO3 and extracted with 2×10 mL dichloromethane. The combined extract is dried over anhydrous MgSO4 and the solvent removed in vacuo to yield 360 mg (89%) ({3-[(5-bromo-2-hydroxyphenyl)methyl](imidazolo[1,2-a]pyridin-2-yl)}methyl)(3-methylbutyl)amine.

reactant | ({3-[(5-bromo-2-methoxyphenyl)methyl](imidazolo[1,2-a]pyridin-2-yl)}methyl) (3-methylbutyl)amine | 1.0 mmol, 416 mg | BrC=1C=CC(=C(C1)CC1=C(N=C2N1C=CC=C2)CNCCC(C)C)OC | C21H26BrN3O
reactant | boron tribromide | 4.0 mmol, 0.4 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | ({3-[(5-bromo-2-hydroxyphenyl)methyl](imidazolo[1,2-a]pyridin-2-yl)}methyl)(3-methylbutyl)amine | 360 mg, 89% | BrC=1C=CC(=C(C1)CC1=C(N=C2N1C=CC=C2)CNCCC(C)C)O | C20H24BrN3O
